US05753664
N-t-Butoxycarbonyl-4-(1-hydroxyethyl)piperidine
In diethyl ether (20 ml) was dissolved ethyl N-tert-butoxycarbonyl-4-piperidineacetate (1.18 g) followed by addition of methanol (0.19 ml). Then, lithium borohydride (123 mg) was added under ice-cooling. The mixture was stirred at room temperature for 15 hours, after which time water was added under ice-cooling. The mixture was diluted with ethyl acetate, washed with aqueous NaCl solution, dried over MgSO4, and concentrated to provide the title compound as colorless oil (0.96 g). 1H-NMR (CDCl3) δ: 1.0-1.4(4H,m), 1.45(9H,s), 1.5-1.8(4H,m), 2.69(2H,t,J=13.3Hz), 3.6-3.8(2H,brm), 4.0-4.2(2H,brm).

reactant | ethyl N-tert-butoxycarbonyl-4-piperidineacetate | 1.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)OCC | C14H25NO4
reactant | methanol | 0.19 ml | CO | CH4O
reactant | lithium borohydride | 123 mg | [BH4-].[Li+]
reactant | water | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-Butoxycarbonyl-4-(1-hydroxyethyl)piperidine | 0.96 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)O | C12H23NO3
